US06787652B1
2-[4-(3-Bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid benzylamide
To a solution of benzylamine (6 μmol) in 10% DMF/DCE were added sequentially 10% DMF/DCE solutions of 2-[4-(3-bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid (5 μmol) and N-methylmorpholine (6 μmol). A DMF solution of O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (7.5 μmol) and the resulting solution was shaken for 4 h at room temperature. The reaction was concentrated at 60° C. in a vacuum oven overnight. HPLC and LCMS shows complete conversion to the title compound of Step A. MS Calc.: 550.1; Found: 549.0 (M−1).

reactant | benzylamine | 6 μmol | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-[4-(3-bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid | 5 μmol | BrC=1C=C(OC2=C(C=C(C=C2C)N2N=C(C(NC2=O)=O)C(=O)O)C)C=CC1OC | C19H16BrN3O6
reactant | N-methylmorpholine | 6 μmol | CN1CCOCC1 | C5H11NO
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 7.5 μmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF DCE | CN(C)C=O.ClCCCl
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[4-(3-Bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1C(NC(N(N1)C1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)OC)Br)C)=O)=O | C26H23BrN4O5
